US07838674B2
1.e: 5-Bromo-3-(2-methoxy-ethoxy)-pyridine
2-Methoxyethanol (2.7 ml; 33.8 mmol) is added dropwise to a suspension of NaH (55% suspension; 1.62 g; 37.14 mmol) in DMF (60 ml). After stirring for 30 minutes, 3,5-dibromopyridine (4.0 g; 16.88 mmol) is introduced and the mixture heated to 50° C. for 1 hour. The reaction mixture is poured on water and extracted with ethyl acetate three times, the organic phases are combined, dried over Na2SO4 and evaporated to dryness. Chromatography (SiO2; Hexanes/acetone 85:15) yields the title compound as yellow solid.

reactant | 2-Methoxyethanol | 33.8 mmol, 2.7 ml | COCCO | C3H8O2
reactant | NaH | 37.14 mmol, 1.62 g | [H-].[Na+]
reactant | 3,5-dibromopyridine | 16.88 mmol, 4.0 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-3-(2-methoxy-ethoxy)-pyridine | BrC=1C=C(C=NC1)OCCOC | C8H10BrNO2
